US05036074
135 ml of n-butyllithium (1.6M in n-hexane) are added dropwise at 0° C. under argon to a suspension of 73.9 g (0.215 mol) of methoxymethyltriphenylphosphonium chloride in 500 ml of anhydrous tetrahydrofuran in such a manner that the temperature does not exceed 5° C. After stirring at 0° C. for 30 minutes a solution of 50 g (0.178 mol) of 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-1-propanone in 100 ml of dry tetrahydrofuran is added dropwise at -75° C. within 30 minutes. The mixture is stirred at this temperature for 3 hours and 100 ml of water are then added dropwise at 0° C. The tetrahydrofuran is distilled off under reduced pressure and the residue is extracted with ethyl acetate. After distilling off the ethyl acetate the oily residue is chromatographed on silica gel with dichloromethane/ethyl acetate (95:5 vol%) as the eluent. There is thus obtained with the 1st fraction (E)- 3-(2,4-dichloro-α-methoxy methylene-β-methylphenethyl)-pyridine as beige crystals, m.p. 67-68° C., and with the 2nd fraction (Z)-3-(2,4-dichloro-α-methoxymethylene-β-methylphenethyl)-pyri dine as a yellowish oil in the ratio of about 1:1 in a total amount of 44.4 g.

reactant | n-butyllithium | 1.6M, 135 ml | C(CCC)[Li]
reactant | methoxymethyltriphenylphosphonium chloride | 0.215 mol, 73.9 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-1-propanone | 0.178 mol, 50 g | ClC1=C(C=CC(=C1)Cl)C(C(=O)C=1C=NC=CC1)C | C14H11Cl2NO
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (E)- 3-(2,4-dichloro-α-methoxy methylene-β-methylphenethyl)-pyridine | ClC1=C(C(\C(=C/OC)\C=2C=NC=CC2)C)C=CC(=C1)Cl | C16H15Cl2NO
